US06348461B1
3,4-Dihydro-3-oxo-7-(pyrrole-1-yl)-6-trifluoromethylquinoxaline-2-carboxylic Acid
To a solution of ethyl 3,4-dihydro-3-oxo-7-(pyrrole-1-yl)-6-trifluoromethylquinoxaline-2-carboxylate (67.0 mg, 191 μmol) in ethanol (2 ml) was added 1N aqueous solution of potassium hydroxide (382 μl, 382 μmol), and the mixture was refluxed for 1 hour. After cooling, the residue obtained by distilling off the solvent was dissolved into water and the pH value was brought to 2 with 4N hydrochloric acid. This was extracted with ethyl acetate and, after dried over anhydrous sodium sulfate, solvent was distilled off. Small quantity of water was added to the residue obtained. The crystals were collected by filtration, washed with water and then air-dried to obtain 52.9 mg of the title compound as yellowish brown powder. Yield 86%.

reactant | ethyl 3,4-dihydro-3-oxo-7-(pyrrole-1-yl)-6-trifluoromethylquinoxaline-2-carboxylate | 191 μmol, 67.0 mg | O=C1C(=NC2=CC(=C(C=C2N1)C(F)(F)F)N1C=CC=C1)C(=O)OCC | C16H12F3N3O3
reactant | potassium hydroxide | 382 μmol, 382 μl | [OH-].[K+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3,4-Dihydro-3-oxo-7-(pyrrole-1-yl)-6-trifluoromethylquinoxaline-2-carboxylic Acid | 52.9 mg, Yield 86% | O=C1C(=NC2=CC(=C(C=C2N1)C(F)(F)F)N1C=CC=C1)C(=O)O | C14H8F3N3O3
